US04137253
A solution of 50 cm3 of phosgene (0.7 mol) in 100 cm3 of methylene chloride was prepared in a one liter four-necked round-bottomed flask provided with a dry ice cooler, a thermometer, a mechanical stirrer and a dropping funnel. A mixture comprising 65 g (0.5 mol) of 2-hydroxyethyl methacrylate and 51 g (0.5 mol) of triethylamine in 100 cm3 of methylene chloride was added to this solution, cooled to -15° C. After one hour of stirring at 0° C., the excess phosgene was removed by bubbling nitrogen. The reaction mixture was then washed in the cold with acidified water, and then with pure water. After drying the organic phase over sodium sulphate and evaporating the solvent under reduced pressure at 30° C., ethyl methacrylate chloroformate was obtained in a yield of 96%.

reactant | 2-hydroxyethyl methacrylate | 0.5 mol, 65 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | triethylamine | 0.5 mol, 51 g | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 100 cm3 | C(Cl)Cl | CH2Cl2
product | ethyl methacrylate chloroformate | yield of 96% | ClC(=O)O.C(C(=C)C)(=O)OCC | InChI=1S/C6H10O2.CHClO2/c1-4-8-6(7)5(2)3;2-1(3)4/h2,4H2,1,3H3;(H,3,4)
